US05783689
N-(Benzyloxycarbonyl)-glycyl-5-fluorouridine
5-Fluorouridine (0.300 g, 1.144 mmol, Sigma) was suspended in 4.0 mL of anhydrous tetrahydrofuran under nitrogen. Dry DMF (0.25 mL) was added. Slowly, the solid dissolved. Cbz glycine (0.239 g, 1.142 mmol, Aldrich), triphenylphosphine (0.300 g, 1.144 mmol), and DIAD (0.220 g, 1.088 mmol) were added. The yellow solution was stirred for 48 h. The solution was concentrated under reduced pressure and chromatographed eluting successively with 1:20 MeOH:CHCl3, 1:10 MeOH:CHCl3, then 1:5 MeOH:CHCl3 to provide 0.137 g (27%) of the title compound as a colorless oil. (The same reaction without the DMF as a cosolvent resulted in an isolated yield of only 13%): IR (TF) 3300 (br), 1710, 1670 cm-1 ; 1H NMR (300 MHz, methanol-d4) δ3.95 (s, 2H, NHCH2 CO), 4.05-4.20 (m, 3H, ribose H-2',3', 4'), 4.35-4.50 (m, 2H, ribose H-5'), 5.09 (s, 2H, benzylic H), 5.81 (m, 1 H, ribose H-1'), 7.25-7.40 (m, 5H, aromatic H), 7.83 (m, 1 H, vinylic H); 13C NMR (75 MHz, methanol-d4) δ43.41, 64.90, 67.82, 70.65, 74.99, 82.85, 91.43, 125.95 (d, J=34.7 Hz, C 4), 128.77, 128.97, 129.40, 137.86, 141.74 (d, J=234.3 Hz, C5), 150.74, 158.96, 159.24 (d, J=26.2, C4), 171.55; TLC (methanol-chloroform, 1:5) Rf =0.35; exact MS (El) calcd for C19H20N3O9F: m/z 453.1184. Found: m/z 453.1174.

reactant | 5-Fluorouridine | 1.144 mmol, 0.300 g | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O6
reactant | Cbz glycine | 1.142 mmol, 0.239 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | triphenylphosphine | 1.144 mmol, 0.300 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.088 mmol, 0.220 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | N-(Benzyloxycarbonyl)-glycyl-5-fluorouridine | 0.137 g, 27% | C(C1=CC=CC=C1)OC(=O)NCC(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(=C1)F | C19H20FN3O9
